US04088695
A mixture of crude 6-(7-hydroxyheptyl)-7-(3-hydroxy-4-methyloct-1-enyl)-1,4-dioxaspiro[4,4]nonane (0.5 g.) and hydrochloric acid (50 ml; 2N) was stirred at 60° C. for 2 hours, cooled to ambient temperature and then extracted with diethyl ether. The ether extract was washed with water and dried over magnesium sulphate. Removal of the solvent under reduced pressure gave a crude product (0.4 g.) which was purified by preparative thin layer chromatography on silica gel, using a mixture of diethyl ether, ethyl acetate and hexane (2:1:1 v/v) as eluant, to give 7-[2-(3-hydroxy-4-methyloct-1-enyl)-5-oxocyclopentyl]heptanol (0.15 g.), νmax 3400 cm-1, 1725 cm-1, 970 cm-1 ; Elemental analysis: Found C, 74.8; H, 11.7%; C21H38O3 requires C, 74.5; H, 11.53%; N.M.R. (approximately 10% solution in deuterochloroform): multiplets at 5.7-5.5 δ, 3.98 δ and 1.05-0.7 δ, triplet at 3.6 δ (J = 6 cycles/sec.), based singlet at 2.05 δ.

reactant | 6-(7-hydroxyheptyl)-7-(3-hydroxy-4-methyloct-1-enyl)-1,4-dioxaspiro[4,4]nonane | 0.5 g | OCCCCCCCC1C2(OCCO2)CCC1C=CC(C(CCCC)C)O | C23H42O4
solvent | hydrochloric acid | 2N, 50 ml | Cl | ClH
product | 7-[2-(3-hydroxy-4-methyloct-1-enyl)-5-oxocyclopentyl]heptanol | 0.15 g | OC(C=CC1C(C(CC1)=O)CCCCCCCO)C(CCCC)C | C21H38O3
